US07585885B2
2-(methanesulfonyl-methylamino)-6-(methylpropylamino)-isonicotinic acid
Dissolve 2-(methanesulfonyl-methylamino)-6-(methylpropylamino)-isonicotinic acid methyl ester (796 mg, 2.52 mmoles) in THF (35 mL) and add 1 N lithium hydroxide (12.6 mL). Stir at room temperature for 16 h, acidify with 5 N HCl (2.6 mL), and partition between diethyl ether and water. Wash the diethyl ether layer with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound as a yellow solid (650 mg, 85%).

reactant | 2-(methanesulfonyl-methylamino)-6-(methylpropylamino)-isonicotinic acid methyl ester | 2.52 mmoles, 796 mg | COC(C1=CC(=NC(=C1)N(CCC)C)N(C)S(=O)(=O)C)=O | C13H21N3O4S
reactant | lithium hydroxide | 1 N, 12.6 mL | [OH-].[Li+]
reactant | HCl | 5 N, 2.6 mL | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-(methanesulfonyl-methylamino)-6-(methylpropylamino)-isonicotinic acid | 650 mg, 85% | CS(=O)(=O)N(C=1C=C(C(=O)O)C=C(N1)N(CCC)C)C | C12H19N3O4S
